US09056874B2
(±)-7-Methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indole-5-carbaldehyde
To a suspension of (±)-1-(7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indol-5-yl)ethane-1,2-diol (238 mg, 0.52 mmol) in THF (5 mL)/H2O (1 mL) was added NaIO4 (443 mg, 2.1 mmol) at 0° C., and then the mixture was stirred at 0° C. for 1.25 h. The reaction mixture was diluted with EtOAc. The bi-layer was partitioned. The organic phase was washed with half satd. Na2S2O3, H2O and brine, dried over Na2SO4, and then filtered. Concentration of the filtrate gave the title compound with no need of any further purification. 1H NMR (400 MHz, DMSO-d6) δ 10.35 (s, 1H), 8.02 (d, J=4.04 Hz, 1H), 7.68 (d, J=8.59 Hz, 2H), 7.55 (s, 1H), 7.43 (d, J=8.59 Hz, 2H), 7.20 (d, J=4.04 Hz, 1H), 5.27 (d, J=11.62 Hz, 1H), 5.09 (d, J=11.62 Hz, 1H), 4.69-4.76 (m, 1H), 3.68-3.81 (m, 1H), 3.37-3.51 (m, 1H), 2.52 (s, 3H), 2.36 (s, 3H), 1.53-1.70 (m, 2H), 1.32-1.53 (m, 4H).

reactant | (±)-1-(7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indol-5-yl)ethane-1,2-diol | 0.52 mmol, 238 mg | CC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)COC1OCCCC1)C(CO)O | C24H29NO6S
reactant | H2O | 1 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-7-Methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indole-5-carbaldehyde | CC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)COC1OCCCC1)C=O | C23H25NO5S
